US09399647B2
The EDCI (0.477 g, 0.00241 mol), HOBt (0.22 g, 0.00144 mol) and N,N-dimethyl amine in THF (2 M, 1.2 ml, 0.00241 mol) were added to a solution of [4-(cyclopropyl-methyl-amino)-6,7,8,9-tetrahydro-5H-10-thia-1,3-diazabenz[a]azulen-2-yl]-acetic acid (0.4 g, 0.0012 mol) in 10 ml of THF. The mixture was stirred for 3 h at room temperature then concentrated under vacuum. The crude was purified by chromatography on silica gel using 2% MeOH-DCM to give 2-[4-(cyclopropyl-methyl-amino)-6,7,8,9-tetrahydro-5H-10-thia-1,3-diaza-benz[a]azulen-2-yl]-N,N-dimethyl-acetamide (0.25 g, 58%) as pale yellow oil. 1H NMR (400 MHz, CDCl3): δ 3.98 (s, 2H), 3.06 (s, 3H), 2.92-3.02 (m, 8H), 2.84-2.88 (m, 2H), 2.72-2.83 (m, 1H), 1.82-1.90 (m, 2H), 1.67-1.78 (m, 2H), 1.50-1.60 (m, 2H), 0.62-0.72 (m, 2H), 0.40-0.48 (m, 2H); LC-MS: [M+H]=359.4 m/z.

reactant | EDCI | 0.00241 mol, 0.477 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.00144 mol, 0.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-dimethyl amine | CNC | C2H7N
reactant | [4-(cyclopropyl-methyl-amino)-6,7,8,9-tetrahydro-5H-10-thia-1,3-diazabenz[a]azulen-2-yl]-acetic acid | 0.0012 mol, 0.4 g | C1(CC1)N(C1=NC(=NC2=C1C=1CCCCCC1S2)CC(=O)O)C | C17H21N3O2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 0.00241 mol, 2 M, 1.2 ml | C1CCOC1 | C4H8O
product | 2-[4-(cyclopropyl-methyl-amino)-6,7,8,9-tetrahydro-5H-10-thia-1,3-diaza-benz[a]azulen-2-yl]-N,N-dimethyl-acetamide | 0.25 g, 58% | C1(CC1)N(C1=NC(=NC2=C1C=1CCCCCC1S2)CC(=O)N(C)C)C | C19H26N4OS
